US07138401B2
Step 6: 2-bromomethyl-3,4,5-trimethyl-pyridine
The compound was obtained from reacting (3,4,5-trimethyl-pyridin-2-yl)-methanol with triphenyl phosphine and carbon tetrabromide in dichloromethane as described in the general procedure 2.5. HPLC Rt: 3.979 min. 1H-NMR (CDCl3): δ 8.18 (s, 1H), 4.63 (s, 2H), 2.35 (s, 3H), 2.48 (s, 3H), 2.24 (s, 3H).

reactant | (3,4,5-trimethyl-pyridin-2-yl)-methanol | CC=1C(=NC=C(C1C)C)CO | C9H13NO
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromomethyl-3,4,5-trimethyl-pyridine | BrCC1=NC=C(C(=C1C)C)C | C9H12BrN
